US07871998B2
N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}-D-seryl-D-phenylalanine
A solution of N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-([2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}-D-serine (diastereomeric mixture) (0.008 g, 0.014 mmol), D-phenylalanine tert-butyl ester hydrochloride (0.005 g, 0.018 mmol) and N-Methylmorpholine (0.006 ml, 0.055 mmol) in DCM (3 ml) was stirred at RT for 5 min. TBTU (0.008 g, 0.025 mmol) was added. After 3 days the conversion to the ester (M/z: 776.1) was complete and the mixture was concentrated under reduced pressure. The residue was dissolved in formic acid (3 ml) and the solution was stirred for 25 h. The mixture was concentrated under reduced pressure and the residue was dissolved in MeOH (4 ml) and TEA (1 ml). The solution was stirred at 40° C. for 6 h. The solvent was removed under reduced pressure. The residue was purified by preparative HPLC using a gradient of 20-50% MeCN in 0.1M ammonium acetate buffer as eluent. After freeze-drying, 0.005 g (53% yield) of the title product was obtained as a white solid. M/z: 720.1. 1H NMR (DMSO, 400 MHz): δ 2.78-2.96 (m, 3H), 3.03-3.11 (m, 1H), 3.44-3.60 (m, 2H), 4.20-4.36 (m, 3H), 4.51 (s, 2H), 4.67-4.76 (m, 1H), 5.01-5.06 (m, 1H), 5.70 (bs, 1H), 6.90-6.98 (m, 2H), 7.05-7.25 (m, 1H), 7.29-7.37 (m, 4H), 7.84-8.00 (m, 2H).

reactant | N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-([2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}-D-serine | 0.014 mmol, 0.008 g | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)N[C@H](CO)C(=O)O)C=C1 | C28H26F2N2O7S
reactant | D-phenylalanine tert-butyl ester hydrochloride | 0.018 mmol, 0.005 g | Cl.C(C)(C)(C)OC([C@H](N)CC1=CC=CC=C1)=O
reactant | N-Methylmorpholine | 0.055 mmol, 0.006 ml | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.025 mmol, 0.008 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}-D-seryl-D-phenylalanine | 0.005 g, 53% yield | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)N[C@H](CO)C(=O)N[C@H](CC2=CC=CC=C2)C(=O)O)C=C1 | C37H35F2N3O8S
